US08183380B2
N-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-morpholine-4-carboxamidine
1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-2-methyl-isothiourea hydroiodide (345 mg, 0.72 mmol) was dissolved in 10 mL ethanol. Morpholine (350 mg, 4 mmol) was added and the reaction mixture was refluxed overnight. The solvent was evaporated and the residue was purified by column chromatography (silica gel, dichloromethane/methanol 40:1). The title compound (144 mg, 51%) was obtained as a light yellow foam; MS: m/e=388.3 (M+H+).

reactant | 1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-2-methyl-isothiourea hydroiodide | 0.72 mmol, 345 mg | I.[C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(SC)=N
reactant | Morpholine | 4 mmol, 350 mg | N1CCOCC1 | C4H9NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-morpholine-4-carboxamidine | 144 mg, 51% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=N)N1CCOCC1 | C23H25N5O
